US08536197B2
(90a) tert-Butyl 3-(benzyloxy)-4,4-dimethoxypiperidine-1-carboxylate
Sodium hydride (55% content, 0.79 g, 18 mmol) was added to a solution of tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate (described in Tetrahedron Lett.; [[EN;]] 46; 3; 2005; 447-450, 3.9 g, 15 mmol) in DMF (50 mL). Following stirring at room temperature for 30 minutes, benzyl bromide (2.82 g, 16.5 mmol) was added, and the mixture was stirred at room temperature for two hours. A 0.5 N aqueous hydrochloric acid solution was added to the reaction solution, followed by extraction with ethyl acetate. Then, the organic layer was washed with water (three times) and brine, and dried over anhydrous magnesium sulfate. Following concentration under reduced pressure, the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=10/1, 4/1, 2/1) to obtain 4.99 g of the title compound as a colorless solid (95%).

reactant | Sodium hydride | 18 mmol, 0.79 g | [H-].[Na+]
reactant | tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate | 15 mmol, 3.9 g | OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C12H23NO5
reactant | benzyl bromide | 16.5 mmol, 2.82 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(benzyloxy)-4,4-dimethoxypiperidine-1-carboxylate | 4.99 g, 95% | C(C1=CC=CC=C1)OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C19H29NO5
